US06969714B2
N-t-Butoxycarbonyl-4-iodobenzenesulphonamide
A solution of di-t-butyl dicarbonate (10 g, 46 mmol) in DCM (80 ml) was added dropwise over 15 min to a stirred solution of 4-iodobenzenesulphonamide (11.3 g, 40 mmol), 4-dimethylaminopyridine (488 mg, 4 mmol) and triethylamine (6.2 ml, 44 mmol) in DCM (50 ml). The reaction was stirred at ambient temperature for 2 hours and the solvent was then removed by evaporation. The residue was dissolved in EtOAc (240 ml), washed 1M aqueous citric acid solution (2×160 ml), brine (160 ml), dried and the solvent removed by evaporation to yield an orange solid. The crude product was recrystallized from EtOAc/isohexane, collected by filtration, washed twice with isohexane and dried to give the title compound (10.25 g, 67%) as off white crystals. NMR 1.40 (s, 9H), 7.71 (d, 2H), 7.90 (d, 2H); m/z 382 (M−H)−.

reactant | di-t-butyl dicarbonate | 46 mmol, 10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-iodobenzenesulphonamide | 40 mmol, 11.3 g | IC1=CC=C(C=C1)S(=O)(=O)N | C6H6INO2S
reactant | triethylamine | 44 mmol, 6.2 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4 mmol, 488 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-t-Butoxycarbonyl-4-iodobenzenesulphonamide | 10.25 g, 67% | C(C)(C)(C)OC(=O)NS(=O)(=O)C1=CC=C(C=C1)I | C11H14INO4S
